US07465795B2
4-amino-N-cyclopropyl-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 2,4-dimethoxypyrimidine-5-boronic acid (171 mg, 0.94 mmol) were reacted. After purification the title compound (133 mg, 78% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.51 (bm, 1H), 8.31 (s, 1H), 7.89 (a dd, J=2.3, 7.4 Hz, 1H), 7.75 (m, 2H), 4.06 (s, 3H), 3.92 (s, 3H), 2.96 (m, 1H), 0.88 (m, 2H), 0.65 (m, 2H). MS APCI, m/z=367, HPLC 2.07 min

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2,4-dimethoxypyrimidine-5-boronic acid | 0.94 mmol, 171 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
product | 4-amino-N-cyclopropyl-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide | 133 mg, 78% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C(=NC(=NC1)OC)OC)C(=O)NC1CC1 | C18H18N6O3
